US07166587B2
a) [(S)-2-Oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester
In an analogous manner to that described in Example 53 a), the alkylation of the (S)-(2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester with 2,2,2-trifluoroethyl triflate, yielded, after chromatography on silica gel using a 99:1-mixture of dichloromethane and methanol as the eluent, the title compound as a white foam; MS: m/e=360 (M+H)+.

reactant | (S)-(2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CNC2=C(NC1=O)C=CC=C2)=O | C14H19N3O3
reactant | 2,2,2-trifluoroethyl triflate | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | [(S)-2-Oxo-1-(2,2,2-trifluoro-ethyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CNC2=C(N(C1=O)CC(F)(F)F)C=CC=C2)=O | C16H20F3N3O3
